US06369078B1
1-(tert-Butoxycarbonyl)4-chloro-2-cyclopentyl-1,2-dihydropyridine
To a stirred solution of 4-Chloro-1-(phenoxycarbonyl)-2-cyclopentyl-1,2-dihydropyridine (5.52 g, 17.3 mmol) in 200 ml of THF at −42° C. was added dropwise over 15 minutes a 1.0M solution of potassium t-butoxide (50 mL, 50 mmol). The resulting orange solution was stirred for 1 h at −42° C. The cooling bath was removed, and the reaction mixture was allowed to stir for 20 min while being slowly warmed to room temperature. Water (50 ml) and ether (70 ml) were added and the aqueous phase was extracted twice with ether. The combined organic extracts were washed with cold 1.0 N NaOH (2×35 ml), and brine. The organic phase was dried over MgSO4, filtered through Celite, and concentrated in vacuo to give the crude product. Column chromatography with 5% EtOAc in hexanes afforded 3.71 g (75.7%) of the product which was homogeneous by TLC analysis. 1H NMR (250 MHz) δ6.89-6.67 (dd, 1 H), 5.58 (br s, 1 H), 5.27-5.23 (m, 1 H), 4.92-4.62 (m, 1 H), 2.21 (m, 1 H), 1.892-1.25 (m, 17 H).

reactant | 4-Chloro-1-(phenoxycarbonyl)-2-cyclopentyl-1,2-dihydropyridine | 17.3 mmol, 5.52 g | ClC1=CC(N(C=C1)C(=O)OC1=CC=CC=C1)C1CCCC1 | C17H18ClNO2
reactant | potassium t-butoxide | 50 mmol, 50 mL | CC(C)([O-])C.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)4-chloro-2-cyclopentyl-1,2-dihydropyridine | 3.71 g, 75.7% | C(C)(C)(C)OC(=O)N1C(C=C(C=C1)Cl)C1CCCC1 | C15H22ClNO2
